US07713994B2
To a suspension of (4E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (1.0 g, 3.0 mmol) and 2-amino-5-(aminomethyl)phenol dihydrochloride (0.64 g, 3.0 mmol) in N,N-dimethylformamide (15 mL) is added triethylamine (1.2 mL, 9.0 mmol). The mixture is stirred at room temperature for 60 hours and then concentrated to dryness under reduced pressure. The residue is then triturated with water, and the solid is collected by filtration, washed successively with diethyl ether and acetonitrile, and dried under house vacuum to provide (4Z)-4-{[(4-amino-3-hydroxybenzyl)amino]methylene}-6-iodoisoquinoline-1,3(2H,4H)-dione as a golden powder (1.3 g, 100%).

reactant | (4E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 3.0 mmol, 1.0 g | IC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8INO3
reactant | 2-amino-5-(aminomethyl)phenol dihydrochloride | 3.0 mmol, 0.64 g | Cl.Cl.NC1=C(C=C(C=C1)CN)O
reactant | triethylamine | 9.0 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-{[(4-amino-3-hydroxybenzyl)amino]methylene}-6-iodoisoquinoline-1,3(2H,4H)-dione | 1.3 g, 100% | NC1=C(C=C(CN\C=C\2/C(NC(C3=CC=C(C=C23)I)=O)=O)C=C1)O | C17H14IN3O3
